US07601846B2
2-(4-Pyrrolidin-1-yl-phenyl)-benzo[d]imidazo[2,1-b]thiazole hydrobromide salt (15)
The title compound is prepared from α-bromo-4-(1-pyrrolidino)acetophenone (Lancaster) and 2-aminobenzothiazole using method B and 10 hours of reflux in 16% yield: mp 283-287° C.; 1H-NMR (DMSO-d6) 1.98 (m, 4H), 3.31 (m, 4H), 6.68 (m, 2H), 7.51 (d, 1H), 7.66 (d, 3H), 8.11 (m, 2H), 8.71 (s, 1H); Anal. (C19H18BrN3S) C, H, N.

reactant | α-bromo-4-(1-pyrrolidino)acetophenone | C1CCN(C1)C2=CC=C(C=C2)C(=O)CBr | C12H14BrNO
reactant | 2-aminobenzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
product | 2-(4-Pyrrolidin-1-yl-phenyl)-benzo[d]imidazo[2,1-b]thiazole hydrobromide salt | 16% yield | Br.N1(CCCC1)C1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | InChI=1S/C19H17N3S.BrH/c1-2-6-18-17(5-1)22-13-16(20-19(22)23-18)14-7-9-15(10-8-14)21-11-3-4-12-21;/h1-2,5-10,13H,3-4,11-12H2;1H
